US07192980B2
A solution of (3Z,5S,6S,7S,8Z,11S,12R,13R,14S,15S,16Z)-1-cyclopentyl-6,12-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-14-hydroxy-5,7,9,11,13,15-hexamethyl-3,8,16,18-nonadecatetraen-2-one (420 mg, 0.60 mmol, 1 eq) in CH2Cl2 (10 mL) is treated with trichloroacetyl isocyanate (135 mg, 0.72 mmol, 1.2 eq) at 23° C. (20 minutes). The solution is concentrated, and the residue dissolved in CH3OH (10 mL). To this solution is added K2CO3 (0.2 g) and the mixture is stirred at 23° C. (3 hours). The reaction mixture is concentrated and the residue dissolved in Et2O (20 mL). The organic solution is washed with H2O (1×10 mL) and brine (1×20 mL). The aqueous layer is extracted with Et2O (3×10 mL) and the combined extracts are dried (Na2SO4) and concentrated. Chromatography (SiO2, 30–50% EtOAc-hexanes gradient elution) provides (3Z,5S,6S,7S,8Z,11S,12R,13R,14S,15S,16Z)-14-[(aminocarbonyl)oxy]-1-cyclopentyl-6,12-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7,9,11,13,15-hexamethyl-3,8,16,18-nonadecatetraen-2-one (420 mg, 94%).

reactant | (3Z,5S,6S,7S,8Z,11S,12R,13R,14S,15S,16Z)-1-cyclopentyl-6,12-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-14-hydroxy-5,7,9,11,13,15-hexamethyl-3,8,16,18-nonadecatetraen-2-one | 0.60 mmol, 420 mg, 1 eq | C1(CCCC1)CC(\C=C/[C@@H]([C@@H]([C@H](\C=C(/C[C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)=O | C42H78O4Si2
reactant | trichloroacetyl isocyanate | 0.72 mmol, 135 mg, 1.2 eq | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3Z,5S,6S,7S,8Z,11S,12R,13R,14S,15S,16Z)-14-[(aminocarbonyl)oxy]-1-cyclopentyl-6,12-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7,9,11,13,15-hexamethyl-3,8,16,18-nonadecatetraen-2-one | 420 mg, 94% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C\C(=C/[C@@H]([C@H]([C@H](\C=C/C(CC1CCCC1)=O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C43H79NO5Si2
